US08372864B2
Added to a solution of 0.794 g of 1-(3-trifluoromethylphenyl)cyclopropylamine hydrochloride in 20 cm3 of water are 4 cm3 of 1M sodium hydroxide at a temperature close to 20° C. This solution is stirred for 15 min. 40 cm3 of dichloromethane are added and the mixture is stirred for 5 min. The aqueous phase is extracted with 30 cm3 of dichloromethane. The organic phases are combined, dried over magnesium sulfate and concentrated using a rotary evaporator under reduced pressure (5 kPa). 700 mg of 1-(3-trifluoromethylphenyl)cyclopropylamine are obtained, which are dissolved in 12 cm3 of dichloromethane. 1 g of tert-butyl [(1S)-2-(3,5-difluorophenyl)-1-oxiran-2-ylethyl]carbamate and 0.329 g of scandium triflate are added to the solution. The light orange-colored suspension is kept stirring at ambient temperature for 20 h. The reaction mixture is concentrated using a rotary evaporator under reduced pressure (5 kPa). The crude product obtained is purified by flash chromatography over silica (column: 200 g; particle size: 15-40 μm; flow rate: 50 cm3/min; eluent: 70% cyclohexane/30% ethyl acetate). After concentrating the fractions under reduced pressure, 0.87 g of tert-butyl [(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]carbamate is obtained in the form of a white solid.

reactant | 1-(3-trifluoromethylphenyl)cyclopropylamine hydrochloride | 0.794 g | Cl.FC(C=1C=C(C=CC1)C1(CC1)N)(F)F
reactant | sodium hydroxide | 1M, 4 cm3 | [OH-].[Na+]
reactant | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
solvent | water | 20 cm3 | O | H2O
product | 1-(3-trifluoromethylphenyl)cyclopropylamine | 700 mg | FC(C=1C=C(C=CC1)C1(CC1)N)(F)F | C10H10F3N
